US03989758
100 g. of 1,1-diethoxy-4-methyl-2,4-hexadien-6-ol are shaken for 20 minutes with 200 ml. of ether and 10 ml. of 3N hydrochloric acid and then treated with 20 g. of potassium carbonate, filtered, and the 4-methyl-6-hydroxy-2,4-hexadien-1-al, which is obtained almost quantitatively, is used without isolation in ethereal solution for the next step.

reactant | 1,1-diethoxy-4-methyl-2,4-hexadien-6-ol | C(C)OC(C=CC(=CCO)C)OCC | C11H20O3
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 4-methyl-6-hydroxy-2,4-hexadien-1-al | CC(C=CC=O)=CCO | C7H10O2
